US07678818B2
To a solution of 8-fluoro-1H-benzo[d][1,3]oxazine-2,4-dione (200 mg, 1.10 mmol) in DMF (2 ml) was added Na2CO3 (129 mg, 1.22 mmol), followed by methyl iodide (104 μl, 1.66 mmol) and the reaction mixture was stirred at RT for 18 h. The reaction mixture was diluted with ethyl acetate and the mixture was washed with water and brine. The organic phase was dried (MgSO4), filtered and concentrated in vacuo to give 8-fluoro-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione (190 mg, 88%) which was not purified due to its poor solubility but directly used in the following step without further purification. To a suspension of the residue (190 mg, 0.97 mmol) in ethanol (4 ml) was added DMAP (12 mg, 0.09 mmol) and the reaction mixture was heated to reflux for 3 h. The reaction mixture was cooled to RT and then concentrated in vacuo to give a residue which was partitioned between ethyl acetate and 0.1M HCl solution. The organic phase was washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography to give the desired product (132 mg, 69%) as a light yellow oil. 1H NMR (CDCl3, 300 MHz): 7.69 (aptd, J=8.0 Hz, 1H), 7.50 (brds, 1H), 7.08 (ddd, J=14.0, 8.0, 1.5 Hz, 1H), 6.51 (aptdt, J=8.0, 4.5 Hz, 1H), 4.31 (q, J=7.0 Hz, 2H), 3.12 (m, 3H), 1.37 (t, J=7.0 Hz, 3H).

reactant | 8-fluoro-1H-benzo[d][1,3]oxazine-2,4-dione | 1.10 mmol, 200 mg | FC1=CC=CC2=C1NC(OC2=O)=O | C8H4FNO3
reactant | Na2CO3 | 1.22 mmol, 129 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl iodide | 1.66 mmol, 104 μl | CI | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-fluoro-1-methyl-1H-benzo[d][1,3]oxazine-2,4-dione | 190 mg, 88% | FC1=CC=CC2=C1N(C(OC2=O)=O)C | C9H6FNO3
